US06933290B2
(R)-1-{(S)-2-[(S)-2-(Biphenyl-3-ylamino)-3-(3,4,5-trimethoxy-phenyl)-propionylamino]-3-methyl-butyrylamino}-3-methyl-butylboronic acid
I-BuB(OH)2 is added to a mixture of (S)-2-[(S)-2-(Biphenyl-3-ylamino)-3-(3,4,5-trimethoxy-phenyl)-propionylamino]-3-methyl-N-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butyl]-butyramide, methanol (4.3 mL), hexane (4.3 mL) and 1N HCl (1.45 mL). The reaction mixture is stirred for 2 h at rt and then diluted with methanol (8 mL) and hexane (8 mL). The two layers are separated. The methanol layer is washed twice with hexane, diluted with CH2Cl2, washed with H2O, dried (Na2SO4), filtered and concentrated. The residue is dissolved in CH2Cl2 and purified by silica gel (20 g) column chromatography (CH2Cl2/MeOH, 80/20) to afford the title compound as a pale yellow foam.

reactant | (S)-2-[(S)-2-(Biphenyl-3-ylamino)-3-(3,4,5-trimethoxy-phenyl)-propionylamino]-3-methyl-N-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butyl]-butyramide | C1(=CC(=CC=C1)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CC(C)C)B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)C(C)C)CC3=CC(=C(C(=C3)OC)OC)OC)C3=CC=CC=C3 | C44H60BN3O7
reactant | HCl | 1N, 1.45 mL | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
solvent | hexane | 8 mL | CCCCCC | C6H14
solvent | hexane | 4.3 mL | CCCCCC | C6H14
solvent | methanol | 4.3 mL | CO | CH4O
product | (R)-1-{(S)-2-[(S)-2-(Biphenyl-3-ylamino)-3-(3,4,5-trimethoxy-phenyl)-propionylamino]-3-methyl-butyrylamino}-3-methyl-butylboronic acid | C1(=CC(=CC=C1)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CC(C)C)B(O)O)C(C)C)CC1=CC(=C(C(=C1)OC)OC)OC)C1=CC=CC=C1 | C34H46BN3O7
